US04351977
Bicyclo[10.3.0]pentadeca-1,12-diene(intermediate compound not isolated)
10.92 g (0.03 mole) of 2-(3-phenylsulfonyl-prop-1-yl)-cyclododecanone and 11.0 g (0.197 mole) of freshly powdered KOH in 40 ml of toluene were heated to reflux for 30 min. as indicated sub letter (b). After addition of 6 ml (0.085 mole) of DMSO, the reaction mixture was heated to reflux for 12 further hours, then cooled, extracted and finally distilled as indicated hereinabove to afford 5.32 g (87% yield) of the desired compound.

reactant | 2-(3-phenylsulfonyl-prop-1-yl)-cyclododecanone | 0.03 mole, 10.92 g | C1(=CC=CC=C1)S(=O)(=O)CCCC1C(CCCCCCCCCC1)=O | C21H32O3S
reactant | KOH | [OH-].[K+]
reactant | DMSO | 0.085 mole, 6 ml | CS(=O)C | C2H6OS
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | Bicyclo[10.3.0]pentadeca-1,12-diene | 5.32 g, 87% yield | C12=CCCCCCCCCCC2=CCC1 | C15H24
